** Generated for: hspiceD
** Generated on: Nov  9 21:42:29 2023
** Design library name: ece482proj
** Design cell name: reg
** Design view name: av_extracted


.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2

** Library name: ece482proj
** Cell name: reg
** View name: av_extracted
c1 vdd vss 1.48672e-15
c2 clk vss 760.97e-18
c3 d vss 475.157e-18
c4 q vss 157.496e-18
c5 net5 vss 88.7524e-18
c6 net24 vss 128.884e-18
c7 net20 vss 479.705e-18
c8 net1 vss 93.728e-18
c9 net17 vss 128.152e-18
c10 net2 vss 618.601e-18
mpm3 vdd d net17 vdd g45p1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mpm1 net20 clk net17 vdd g45p1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mpm2 vdd net20 net24 vdd g45p1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mpm0 q net2 net24 vdd g45p1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mpm4 net2 clk vdd vdd g45p1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mnm1 net20 net2 net1 vss g45n1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mnm0 vss d net1 vss g45n1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mnm2 q clk net5 vss g45n1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mnm3 vss net20 net5 vss g45n1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mnm6 net2 clk vss vss g45n1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
.END
